US07884210B2
4-Trans-methyl-cyclohexylamine (6.65 g, 44.4 mmol) and potassium carbonate (12.3 g, 88.8 mmol) in acetonitrile (50 mL) was heated to reflux before a solution of (3-bromo-propoxymethyl)-benzene (10.2 g, 44.4 mmol) in acetonitrile (25 mL) over a period of 30 min. The reaction mixture was refluxed for 2 hours before the solvent was removed in vacuo. The residue was divided between diethyl ether (100 mL) and aqueous sodium hydroxide (1N, 50 mL). The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified using column chromatography (SiO2, heptane-ethyl acetate 1:1) to give 8.4 g (3-benzyloxy-propyl)-(4-methyl-cyclohexyl)-amine. To this was added a solution of bis-tert-butyl-dicarbonate (32 mmol, 1N in THF) and the reaction mixture was stirred at room temperature for 18 hours before the solvent was removed in vacuo. The residue was dissolved in diethyl ether (150 mL) and washed with water (2×100 mL). The organic phase was dried (MgSO4), filtered and concentrated in vacuo to give 10.6 g of (3-benzyloxy-propyl)-(4-methyl-cyclohexyl)-carbamic acid tert-butyl ester. This was subsequently dissolved ethanol (100 mL) and Pd/C (10%, 1 g) was added. The reaction mixture was stirred under H2 (1 atm) for 4 hours. The reaction mixture was filtered throughout a pad of celite and concentrated in vacuo to give 7.9 g of (3-hydroxy-propyl)-(4-methyl-cyclohexyl)-carbamic acid tert-butyl ester.

reactant | potassium carbonate | 88.8 mmol, 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3-bromo-propoxymethyl)-benzene | 44.4 mmol, 10.2 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (3-benzyloxy-propyl)-(4-methyl-cyclohexyl)-amine | 8.4 g | C(C1=CC=CC=C1)OCCCNC1CCC(CC1)C | C17H27NO
